US04283539
2-(3,4-Dichlorobenzyl)-1,2-dihydro-3-methyl-1-oxo-4-isoquinoline Acetic Acid
Sodium hydride (48 mg., 2.0 mmol) (Ventron, washed free of mineral oil with hexane) and 2 ml. dimethylformamide were reacted with 1,2-dihydro-3-methyl-1-oxo-4-isoquinoline acetic acid (217 mg., 1.0 mmol). After homogeneity was observed, 3,4-dichlorobenzyl chloride (196 mg., 1.0 mmol) in 1 ml. dimethylformamide was added. The mixture was heated at 110° for 3 hr, cooled and partitioned between hydrochloric acid and ethyl acetate. The crude product obtained from the organic layer after several aqueous washings, drying over magnesium sulfate, filtration, and vacuum evaporation was column chromatographed on silica gel with ethyl acetate; 104 mg., 28%, mp 218°-220°.

reactant | Sodium hydride | 2.0 mmol, 48 mg | [H-].[Na+]
reactant | 1,2-dihydro-3-methyl-1-oxo-4-isoquinoline acetic acid | 1.0 mmol, 217 mg | CC=1NC(C2=CC=CC=C2C1CC(=O)O)=O | C12H11NO3
reactant | 3,4-dichlorobenzyl chloride | 1.0 mmol, 196 mg | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(3,4-Dichlorobenzyl)-1,2-dihydro-3-methyl-1-oxo-4-isoquinoline Acetic Acid | ClC=1C=C(CN2C(C3=CC=CC=C3C(=C2C)CC(=O)O)=O)C=CC1Cl | C19H15Cl2NO3
